US07186716B2
2-Chloronicotinoyl chloride (3.4 g, 20 mmol) (Aldrich, Milwaukee, Wis.) was added to a solution of aluminum chloride (2.7 g, 20 mmol) (Aldrich, Milwaukee, Wis.) in dichloromethane (100 mL) at 0° C., followed by a solution of 2,4-dimethylpyrrole (2.9 g, 30 mmol) in dichloromethane (20 mL). The mixture was then stirred at room temperature for one hour. The reaction was diluted with ethyl acetate, washed with brine, dried and concentrated. The residue was purified on a silica gel column to give 2.9 g (62%) of (2-chloro-pyridin-3-yl)-(3,5-dimethyl-1H-pyrrol-2-yl)-methanone.

reactant | 2-Chloronicotinoyl chloride | 20 mmol, 3.4 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | aluminum chloride | 20 mmol, 2.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,4-dimethylpyrrole | 30 mmol, 2.9 g | CC=1NC=C(C1)C | C6H9N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-chloro-pyridin-3-yl)-(3,5-dimethyl-1H-pyrrol-2-yl)-methanone | 2.9 g, 62% | ClC1=NC=CC=C1C(=O)C=1NC(=CC1C)C | C12H11ClN2O
